US06730672B2
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with N-[2-amino-2-(piperidinocarbonyl)ethyl]-2-(2-naphthalenesulphonamido)-acetamide to give 2-(2-naphthalenesulphonamido)-N-{2-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}acetamide in 41% yield, m.p. 200-202° C.;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | N-[2-amino-2-(piperidinocarbonyl)ethyl]-2-(2-naphthalenesulphonamido)-acetamide | NC(CNC(CNS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)C(=O)N1CCCCC1 | C20H26N4O4S
product | 2-(2-naphthalenesulphonamido)-N-{2-piperidinocarbonyl-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]ethyl}acetamide | 41% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NCC(=O)NCC(NC(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)N1CCCCC1 | C31H38N6O5S
